US07098212B2
5-Chloro-2-methoxy-benzenesulfonamide
To a solution of 5-chloro-2-methoxybenzene sulfonyl chloride (1.0 g, 4.15 mmol) in tetrahydrofuran (10 mL) was bubbled ammonia gas until saturated. The reaction was stirred overnight. The white solid that precipitated out of solution was collected by filtration and washed with dichloromethane to give the title compound (0.52 g).

reactant | 5-chloro-2-methoxybenzene sulfonyl chloride | 4.15 mmol, 1.0 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-Chloro-2-methoxy-benzenesulfonamide | 0.52 g | ClC=1C=CC(=C(C1)S(=O)(=O)N)OC | C7H8ClNO3S
